US05872136
Step C: 3-Phenyl-2-chloro-6-bromomethylpyridine
A solution of 3-Phenyl-2-chloro-6-methylpyridine (0.094 g, 0.462 mmol), NBS (0.086 g, 0.485 mmol) and AIBN (0.008 g, 0.046mmol) in CCl4 (3 mL) were heated at reflux for 2 hours. The solvent was evaporated and the residue chromatographed (Silica gel, 100% CH2Cl2 to afford the title compound.

reactant | 3-Phenyl-2-chloro-6-methylpyridine | 0.462 mmol, 0.094 g | C1(=CC=CC=C1)C=1C(=NC(=CC1)C)Cl | C12H10ClN
reactant | NBS | 0.485 mmol, 0.086 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.046mmol, 0.008 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Phenyl-2-chloro-6-bromomethylpyridine | C1(=CC=CC=C1)C=1C(=NC(=CC1)CBr)Cl | C12H9BrClN
